US08067448B2
4-cyano-N′-((2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoyl)benzohydrazide
To a mixture of (2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid (0.66 g, 2.39 mmol), 4-cyanobenzhydrazide (390 mg, 2.42 mmol), HOBt (327 mg, 2.42 mmol) in THF (40 mL) was added EDC (696 mg, 3.63 mmol) and Et3N (0.56 mL, 4.02 mmol) at 0° C. The mixture was stirred at 0° C. for 30 min., then at room temperature overnight. The reaction was quenched by adding water and extracted with EtOAc (400 mL). The EtOAc extracts were washed with water, brine and dried over Na2SO4. Removal of the solvent and purification of the residue gave the title compound 4-cyano-N′-((2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoyl)benzohydrazide (0.68 g, 68%). 1H NMR (400 MHz, Acetone-d6, δ in ppm) 8.09 (d, J=8.6 Hz, 2H), 7.93 (d, J=8.6 Hz, 2H), 7.81 (d, J=5.7 Hz, 1H), 7.73 (d, J=5.7 Hz, 1H), 7.67 (d, J=8.2 Hz, 1H), 6.68 (d, J=8.2 Hz, 1H), 6.21 (d, J=7.2 Hz, 1H), 4.42 (m, 1H), 4.25 (dd, J=3.9, 7.2 Hz, 1H), 1.39 (d, J=6.4 Hz, 3H).

reactant | (2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoic acid | 2.39 mmol, 0.66 g | C(#N)C1=CC=C(C2=C1SC=C2)N[C@@H](C(=O)O)[C@H](C)O | C13H12N2O3S
reactant | 4-cyanobenzhydrazide | 2.42 mmol, 390 mg | C(#N)C1=CC=C(C(=O)NN)C=C1 | C8H7N3O
reactant | HOBt | 2.42 mmol, 327 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 3.63 mmol, 696 mg
reactant | Et3N | 4.02 mmol, 0.56 mL | CCN(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 4-cyano-N′-((2R,3S)-2-(7-cyanobenzo[b]thiophen-4-ylamino)-3-hydroxybutanoyl)benzohydrazide | 0.68 g, 68% | C(#N)C1=CC=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=CC=C(C=3SC=CC32)C#N)=O)C=C1 | C21H17N5O3S
